US08809382B2
5-Chloro-2-hex-1-enyl-1H-indole was dissolved in ethanol and 10% palladium on carbon was added to the solution. The reaction flask was sealed and exposed to hydrogen gas under pressure and was stirred for 5 hours. Then the reaction mixture was filtered through Celite. The solvent was evaporated to give 5-Chloro-2-hexyl-1H-indole

reactant | 5-Chloro-2-hex-1-enyl-1H-indole | ClC=1C=C2C=C(NC2=CC1)C=CCCCC | C14H16ClN
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Chloro-2-hexyl-1H-indole | ClC=1C=C2C=C(NC2=CC1)CCCCCC | C14H18ClN
